US20010053851A1
A solution of 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (716 mg, 2.0 mmol) and triethylamine (2 mL, 0.01 mmol) in N,N-dimethylformamide (2 mL) was treated with 4-pentyne-2-ol (0.47 mL, 5.0 mmol). The resulting reaction mixture was degassed with argon and then treated with cooper iodide (10 mg, 0.05 mmol) and bis(triphenylphosphine)palladium (II) chloride (15 mg, 0.02 mmol). The reaction was then heated at 70° C. for 24 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The residue was diluted with ethyl acetate (40 mL) and a half-saturated aqueous sodium chloride solution (1×20 mL). The aqueous layer was back extracted with ethyl acetate (1×40 mL). The combined organic extracts were washed with a half-saturated aqueous sodium chloride solution (1×20 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 ethyl acetate/hexanes) afforded 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-propionic acid methyl ester (578 mg, 92%) as an amber oil: EI-HRMS m/e calcd for C20H26O3 (M+) 314.1881, found 314.1888.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 2.0 mmol, 716 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | 4-pentyne-2-ol | 5.0 mmol, 0.47 mL | CC(CC#C)O | C5H8O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.02 mmol, 15 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | triethylamine | 0.01 mmol, 2 mL | C(C)N(CC)CC | C6H15N
catalyst | iodide | 0.05 mmol, 10 mg | [I-]
product | 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-propionic acid methyl ester | 578 mg, 92% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CCC(C)O)=O | C20H26O3
